US04112112
A mixture of 5 gm. of 6,11-dihydro-2-formyl-5H-pyrrolo[2,1-b][3]benzazepin-11-one, 2.5 gm. of ethylene glycol, 0.5 gm. of p-toluenesulfonic acid and 100 ml. of toluene is refluxed for 16 hr. in an apparatus designed to remove water formed during the reaction (Dean-Stark apparatus). The reaction mixture is cooled to 0° C. and washed rapidly with ice cold 5% sodium carbonate solution (2 × 50 ml.) and dried over Na2SO4. Evaporation of the solvent leaves 6,11-dihydro-2-(2-dioxolanyl)-5H-pyrrolo[2,1-b][3]benzazepin-11-one as an oil which is of sufficient purity for use in the next step.

reactant | 6,11-dihydro-2-formyl-5H-pyrrolo[2,1-b][3]benzazepin-11-one | C(=O)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C14H11NO2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6,11-dihydro-2-(2-dioxolanyl)-5H-pyrrolo[2,1-b][3]benzazepin-11-one | O1C(OCC1)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C16H15NO3
